US09029544B2
(3S,9S)-9-(tert-Butyldimethylsilyloxy)-4-chloro-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]
1.32 g (9S)-9-(tert-butyldimethylsilyloxy)-4-chloro-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-ol and 2.9 ml triethylsilane are dissolved in 40 ml dichloromethane, cooled to −50° C. and treated dropwise with 4.4 ml of a 1 m solution of titanium-(IV)-chloride in dichloromethane. Then the mixture is allowed to warm to room temperature and stirred for 30 minutes. The mixture is partitioned between saturated solution of sodium bicarbonate in water and dichloromethane. The aqueous phase is twice extracted with dichloromethane. The combined organic phases are dried with sodium sulphate and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 90:10).

reactant | (9S)-9-(tert-butyldimethylsilyloxy)-4-chloro-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-ol | 1.32 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)Cl)C(OC31CCOCC1)(O)C1=CC=C(C=C1)C(F)(F)F | C30H39ClF3NO4Si
reactant | triethylsilane | 2.9 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | titanium-(IV)-chloride | [Ti](Cl)(Cl)(Cl)Cl
product | (3S,9S)-9-(tert-Butyldimethylsilyloxy)-4-chloro-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)Cl)[C@@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C30H39ClF3NO3Si
